US06245829B1
Preparation of N,N-bis(β-hydroxyethyl)acetamide
315 g of diethanolamine were dissolved in 500 g of tetrahydrofuran in a round-bottom flask. Then, 310 g of acetic anhydride were slowly added. The temperature was kept below 5° C. with the aid of a cooling bath. When, after the dropwise addition, exothermic heat was no longer detectable, heating was slowly carried out to 100° C. Tetrahydrofuran and acetic acid were removed under vacuum.

reactant | diethanolamine | 315 g | N(CCO)CCO | C4H11NO2
reactant | acetic anhydride | 310 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 500 g | O1CCCC1 | C4H8O
product | N,N-bis(β-hydroxyethyl)acetamide | OCCN(C(C)=O)CCO | C6H13NO3
